US06600038B1
In 5 ml of dimethylformamide, 0.70 g of 6-chloro-9-(4-isopropyl-2-methylthiophenyl)-2-methyl-8,9-dihydropurin-8-one was dissolved, and 80 mg of sodium hydride in an oil was added thereto with ice-cooling, followed by stirring for 40 minutes. Subsequently, 0.39 g of ethyl bromoacetate was added thereto, and the reaction mixture was warmed up to room temperature and was stirred for 20 minutes. Water was poured into the reaction mixture. The reaction mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and was then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate=4:1) to yield 0.85 g of ethyl 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetate as an oil.

reactant | 6-chloro-9-(4-isopropyl-2-methylthiophenyl)-2-methyl-8,9-dihydropurin-8-one | 0.70 g | ClC1=C2NC(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O | C16H17ClN4OS
reactant | sodium hydride | 80 mg | [H-].[Na+]
reactant | ethyl bromoacetate | 0.39 g | BrCC(=O)OCC | C4H7BrO2
reactant | Water | O | H2O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetate | 0.85 g | ClC1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O)CC(=O)OCC | C20H23ClN4O3S
